
* TLV2374
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: TLV2374
* Date: 01JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SLOS270D - MARCH 2001 - REVISED JANUARY 2005
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* THIS MODEL IS APPLICABLE TO TLV2373,TLV2374, TlV2375
* BEGIN MODEL TLV2374
* PINOUT ORDER +IN -IN +V -V OUT 
* PINOUT ORDER  3   4   6  2  1   
* BEGIN NOTES
* FOR MORE ACCURATE CURRENTS
* IF LOOKING AT BIAS CURRENT
* USE GMIN-1E-13
* MODEL TEMPERATURE RANGE IS
* -40 C TO +125 C, NOT ALL
* PARAMETERS TRACK THOSE OF
* THE REAL PART VS TEMPERATURE
* END NOTES
* BEGIN FEATURES
* OPEN LOOP GAIN AND PHASE
* INPUT VOLTAGE NOISE W 1/F
* INPUT CURRENT NOISE
* INPUT BIAS CURRENT
* INPUT BIAS CURRENT VS TEMPERATURE
* INPUT CAPACITANCE
* INPUT COMMON MODE VOLTAGE RANGE
* INPUT VOS SHIFT WITH VCM
* INPUT CLAMPS TO RAILS
* CMRR WITH FREQUENCY EFFECTS
* PSRR WITH FREQUENCY EFFECTS
* SLEW RATE
* SHUTDOWN
* SHUTDOWN ENABLE AND DISABLE DELAY
* QUIESCENT CURRENT
* QUIESCENT CURRENT VS SHUTDOWN
* HIGH CLOAD EFFECTS
* CLASS AB BIAS IN OUTPUT STAGE
* OUTPUT CURRENT THROUGH SUPPLIES
* OUTPUT CURRENT LIMITING
* OUTPUT CLAMPS TO RAILS
* OUTPUT SWING VS OUTPUT CURRENT
* END FEATURES
.SUBCKT TLV2374 3 4 6 2 1 
Q20 7 8 9 QLN
R3 10 11 2
R4 12 11 2
R10 8 13 1E3
R11 14 15 1E3
R12 16 6 4
R13 2 17 4
R16 18 19 200
R17 20 21 4
R18 9 22 4
D5 23 6 DD
D6 2 23 DD
D7 24 0 DIN
D8 25 0 DIN
I8 0 24 0.1E-3
I9 0 25 0.1E-3
E2 9 0 2 0 1
E3 21 0 6 0 1
D9 26 0 DVN
D10 27 0 DVN
I10 0 26 0.1E-3
I11 0 27 0.1E-3
E4 28 4 26 27 0.025
G2 29 4 24 25 2.9E-7
R22 2 6 100E6
E5 30 0 21 0 1
E6 31 0 9 0 1
E7 32 0 33 0 1
R30 30 34 1E5
R31 31 35 1E5
R32 32 36 1E5
R33 0 34 10
R34 0 35 10
R35 0 36 10
E10 37 3 36 0 0.01
R36 38 33 1E3
R37 33 39 1E3
C6 30 34 0.2E-12
C7 31 35 0.2E-12
C8 32 36 0.2E-12
E11 40 37 35 0 0.8
E12 29 40 34 0 0.8
E14 41 9 21 9 0.5
D11 18 21 DD
D12 9 18 DD
M1 42 43 17 17 NOUT L=3U W=80U
M2 44 45 16 16 POUT L=3U W=80U
M3 46 46 20 20 POUT L=3U W=80U
M4 47 48 10 10 PIN L=3U W=110U
M5 49 50 12 12 PIN L=3U W=110U
M8 51 51 22 22 NOUT L=3U W=80U
R43 52 45 100
R44 53 43 100
G3 18 41 54 41 0.2E-3
R45 41 18 120E6
C12 19 23 10E-12
R46 9 47 2E3
R47 9 49 2E3
C13 47 49 1E-12
C14 29 0 4E-12
C15 28 0 4E-12
C16 23 0 0.5E-12
D13 43 7 DD
D14 55 45 DD
Q15 55 15 21 QLP
V18 29 56 0
M19 57 58 21 21 PIN L=6U W=500U
E17 39 0 29 0 1
E18 38 0 4 0 1
M23 58 58 21 21 PIN L=6U W=500U
V21 57 11 0
R59 23 44 1
R60 42 23 1
J1 59 29 59 JNC
J2 59 28 59 JNC
J3 28 60 28 JNC
J4 29 60 29 JNC
C21 29 61 2E-12
E20 62 41 49 47 1
R62 62 54 1E4
C23 54 41 0.1E-12
G7 63 41 18 41 -1E-3
G8 41 64 18 41 1E-3
G9 41 65 51 9 1E-3
G10 66 41 21 46 1E-3
D17 66 63 DD
D18 64 65 DD
R66 63 66 100E6
R67 65 64 100E6
R68 66 21 1E3
R69 9 65 1E3
E23 21 52 21 66 1
E24 53 9 65 9 1
R70 64 41 1E6
R71 65 41 1E6
R72 41 66 1E6
R73 41 63 1E6
G11 6 2 67 0 315E-6
R75 40 29 1E9
R76 37 40 1E9
R77 3 37 1E9
R78 4 28 1E9
R79 41 54 1E9
R81 52 21 1E9
R82 9 53 1E9
R83 33 0 1E9
G14 58 9 67 0 55U
G15 46 51 67 0 80U
E48 68 18 67 0 30
E49 69 41 67 0 -30
V49 70 69 15
V50 71 68 -15
R127 68 0 1E12
R128 69 0 1E12
M41 41 71 18 72 PSW L=1.5U W=150U
M42 18 70 41 73 NSW L=1.5U
R129 72 0 1E12
R130 73 0 1E12
M43 74 5 9 9 NEN L=3U W=300U
M44 75 76 9 9 NEN L=3U W=3000U
R131 74 21 1E4
R132 75 77 1E6
V51 77 9 1
M45 78 78 21 21 PEN L=6U W=60U
M46 5 78 21 21 PEN L=6U W=60U
I20 78 9 0.1E-6
C26 5 0 1E-12
E50 67 0 79 9 1
V52 75 79 1.111E-6
R133 9 79 1E12
C32 21 74 3E-15
C33 77 75 3E-15
I21 6 2 30E-6
L1 23 1 4E-9
R150 23 1 400
V78 21 59 0
V79 60 9 0
R155 46 21 1E8
R156 9 51 1E8
R157 17 43 1E8
R158 16 45 1E8
RG1 0 67 1E9
R159 61 28 100
R225 50 28 25E3
R226 48 56 25E3
M48 80 81 2 2 NIQS L=3U W=1000
R297 80 6 61.5E3
E94 81 2 67 0 2
M49 82 74 9 9 NEN L=3U W=300U
M50 76 82 9 9 NEN L=3U W=300U
R298 82 77 1E4
R299 76 77 1E4
C35 77 82 40E-12
M51 83 84 85 85 NIN L=3U W=110U
M52 86 87 88 88 NIN L=3U W=110U
R300 89 85 2
R301 89 88 2
R302 83 21 2E3
R303 86 21 2E3
C36 83 86 1E-12
G36 18 41 90 41 0.2E-3
R304 41 90 1E9
C37 90 41 0.1E-12
E97 91 41 86 83 1
R305 91 90 1E4
V115 92 56 1E-3
R306 28 87 25E3
R307 92 84 25E3
M53 93 94 95 95 PIN L=6U W=500U
R308 95 57 2E3
V116 21 94 1.25
M54 93 93 9 9 NIN L=3U W=500U
M55 89 93 9 9 NIN L=3U W=500U
E98 21 14 6 16 1
E99 13 9 17 2 1
C105 77 76 130E-12
R233 78 21 1E12
R334 93 9 1E12
R335 58 21 1E12
R336 94 21 1E12
R337 2 81 1E12
G37 28 0 96 0 6.6E-12
I48 28 0 1E-12
I49 0 97 1E-3
D46 97 0 DD
V119 97 98 0.7
R633 0 98 1E6
E100 99 0 98 0 -571
R634 0 99 1E6
D47 100 96 DD
V120 99 100 83.5
G38 29 0 96 0 6.6E-12
I50 29 0 1E-12
R635 0 96 1E6
R636 96 100 1E11
.MODEL DVN D KF=8E-12 IS=1E-16
.MODEL DD D
.MODEL DIN D
.MODEL QLN NPN
.MODEL QLP PNP
.MODEL JNC NJF
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIQS NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.ENDS
* END MODEL TLV2374
